Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
EGD
PICC line placement ___

 
History of Present Illness:
This is a ___ year-old female with a history of recurrent 
pancreatitis who presents with abdominal pain and nausea 
consistent with her prior presentations.  She is normally able 
to manage her pancreatitis flares at home with PRN percocet and 
compazine but could not tolerate it any further, so she came in.

In the ED, initial vitals were T:98.9 BP:102/47 HR:56 RR:14 
O2Sat:97% on RA.  She received hydromorphone and ondansetron 
with some relief of her symptoms.  Shw hD ___ abdominal 
epigastric pain and some residual nausea.
  
ROS: The patient denies any fevers, chills, weight change, 
nausea, vomiting, abdominal pain, diarrhea, constipation, 
melena, hematochezia, chest pain, shortness of breath, 
orthopnea, PND, lower extremity oedema, cough, urinary 
frequency, urgency, dysuria, lightheadedness, gait unsteadiness, 
focal weakness, vision changes, headache, rash or skin changes.  

 
Past Medical History:
PMHx:
1) Recurrent pancreatitis: Started after partial pancreatectomy 
in ___.  Then no recurrent until ___.  Was hospitalized in 
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
stent placement in panc duct.  Further episodes in ___ 
with same ERCP again and stent extension.  In ___, another bout 
of acute pancreatitis, but ERCP this time showed no duct 
stenosis.  
2) Hemolytic anemia:  reaction to Keflex, treated with 
splenectomy in ___.
3) s/p ccy in ___
4) s/p appy in ___
5) Asthma:  mild intermittent
6) hypothyroidism
7) s/p tubal ligation
 
Social History:
___
Family History:
Negative for GI illnesses. 
Positive for lung CA, cervical CA. 
 
Physical Exam:
Vitals: T:99.4 BP:108/74 HR:76 RR:16 O2Sat:99%  
GEN: Well-appearing, well-nourished, no acute distress  
HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or 
rhinorrhea, MMM, OP Clear  
NECK: No JVD, carotid pulses brisk, no bruits, no cervical 
lymphadenopathy, trachea midline  
COR: RRR, no M/G/R, normal S1 S2, radial pulses +2  
PULM: Lungs CTAB, no W/R/R  
ABD: Soft, + epigastric tenderness to palpation , ND, +BS, no 
HSM, no masses, scars from splenectomy and pancreatitic 
pseudocyst/appendix/gall bladder surgery.
EXT: No C/C/E, no palpable cords  
NEURO: alert, oriented to person, place, and time. CN II  XII 
grossly intact. Moves all 4 extremities. Strength ___ in upper 
and lower extremities.
 
Pertinent Results:
___ 
WBC-6.5 RBC-4.30# Hgb-13.0 Hct-38.9 MCV-90 MCH-30.3 MCHC-33.5 
RDW-12.6 Plt ___ ___ Monos-6.8 Eos-4.3* 
Baso-1.2
Glucose-104 UreaN-9 Creat-0.9 Na-139 K-4.5 Cl-103 HCO3-27 
AnGap-14

___ 
WBC-13.5* RBC-3.48* Hgb-11.0* Hct-31.9* MCV-92 MCH-31.5 
MCHC-34.4 RDW-12.6 Plt ___
Neuts-58.8 ___ Monos-8.4 Eos-3.8 Baso-0.9
___ PTT-41.3* ___
Glucose-115* UreaN-16 Creat-0.6 Na-139 K-4.3 Cl-107 HCO3-25 
AnGap-11

___ 04:45PM BLOOD ALT-13 AST-23 AlkPhos-74 Amylase-68 
TotBili-0.5 Lipase-55
___ Amylase-48 Lipase-43
___ ALT-33 AST-29 AlkPhos-78 TotBili-0.7
___ Amylase-31 Lipase-32

___ 05:50AM BLOOD Calcium-8.5 Phos-2.9# Mg-2.0
___ 06:05AM BLOOD Calcium-8.7 Phos-3.5 Mg-2.0
___ 05:35AM BLOOD Triglyc-95 HDL-33 CHOL/HD-4.2 LDLcalc-88
___ 06:05AM BLOOD Triglyc-206*

___ 02:13PM URINE 
___ WBC->50 Bacteri-FEW Yeast-NONE ___
URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
Pansensitive.

AXR ___: Nonobstructive bowel gas pattern. No free air.

Abdominal CT ___:
1. Mild stranding adjacent to the distal aspect of the remaining 
pancreas, probably related to pancreatitis. There is no evidence 
of pseudocyst, fluid collection or pancreatic necrosis.  
2. Intra- and extra-hepatic bile duct dilation and pancreatic 
ductal dilation appears similar to the recent MRCP of ___, 
but these ducts are increased in caliber compared to the prior 
CTA of ___. This raises the possibility of papillary 
stenosis. 

___ EGD
Findings: Esophagus:  
 Mucosa: Normal mucosa was noted.  
Stomach:  
 Protruding Lesions A single 3mm polyp of benign appearance was 
found in the proximal stomach body. A cold forceps biopsy was 
performed for histology.  
Duodenum:  
 Mucosa: Normal mucosa was noted.  

Impression: Polyp in the proximal stomach body (biopsy)
Otherwise normal EGD to third part of the duodenum 

___ Pathology
Gastric proximal body, mucosal biopsy:
Body-type mucosa with focal mild chronic inflammation and a few 
dilated glands consistent with fundic gland polyp.

 
Brief Hospital Course:
1) Abdominal pain: Her presentation was felt most consistent 
with a pancreatitis flare, without rise in biochemical markers. 
Her symptoms improved without eating for several days and then 
worsened after trying to advance from clear to full liquids. She 
additionally reported nausea, which improved with empiric PPI 
therapy. Given her protracted symptoms, GI was consulted. A CT 
scan of the abdomen with pancreas protocol on ___ showed 
peripancreatic stranding and ducts similar in size to previous 
MRCP but dilated compared to previous CTA. An EGD was 
additionally performed, and did not disclose other pathology 
(polyp biopsied). In light of poor nutritional intake and 
failure to advance her diet, TPN was recommended. A PICC line 
was placed on (___). She tolerated the TPN and reached her goal 
per nutrition recommendations. She was discharged after cycling 
down her TPN to 18 hours, her goal at home was set to 12 hrs. 
She was setup with ___ for her TPN and will follow up with her 
PCP and GI within one week.

2) Asthma: Did not require treatment during this admission.

3) Depression: Stable, continued on citalopram

4) Hypothyroidism: Stable continued on levothyroxine 75mcg 
daily.

5) Tobacco abuse: Pt was started on NicoDerm Patch and will 
continue after discharge.

 
Medications on Admission:
Levothyroxine 75mcg daily  
Citalopram 40mg daily  
Percocet prn
Compazine PRN pancreatitis  

 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*2*
4. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).
Disp:*60 Capsule(s)* Refills:*2*
5. Compazine 5 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.
Disp:*60 Tablet(s)* Refills:*0*
6. Dilaudid 4 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain.
Disp:*126 Tablet(s)* Refills:*0*
7. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Acute flare of chronic pancreatitis

Secondary:
Asthma
Depression
Urinary tract infection
 
Discharge Condition:
Stable, normotensive, afebrile, good O2 sats on Room air, 
tolerating clear liquids, ambulating

 
Discharge Instructions:
It was a pleasure taking care of you while you were in the 
hospital.  You have been diagnosed with chronic pancreatitis.  A 
CT was performed that was consistent with pancreatitis.  You 
also had an EGD which only showed inflammation and a fundic 
gland polyp.  You were evaluated by nutrition and will require 
long term total parenteral nutrition. 
***
You should follow up with your PCP who will check your labs 
weekly.  Additionally, you will have ___ services for your TPN 
administration.
***
Please take all of your medications exactly as prescribed, 
including your TPN.
Please follow up with the appointments below.
***
Please call your PCP or go to the ED if you experience worsening 
abdominal pain, nausea, vomiting, urinary problems, fevers, 
chills, shortness of breath or other concerning symptoms. 
 
Followup Instructions:
___